US09079866B2
4′-(2-Amino-1,3-oxazol-4-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide
The title compound was prepared using methods described in Example 427 using 4-(4-bromo-2-fluorophenyl)oxazol-2-amine and (2-(N-(tert-butyl)sulfamoyl)phenyl)boronic acid. MS (ESI): mass calcd. for C19H20FN3O3S, 389.12; m/z found, 390.2 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.18 (dd, J=7.9, 1.4, 1H), 7.98 (m, 1H), 7.66 (d, J=4.2, 1H), 7.57 (m, 1H), 7.54-7.48 (m, 1H), 7.38-7.30 (m, 3H), 4.63 (s, 2H), 3.64 (s, 1H), 1.03 (s, 9H).

reactant | 4-(4-bromo-2-fluorophenyl)oxazol-2-amine | BrC1=CC(=C(C=C1)C=1N=C(OC1)N)F | C9H6BrFN2O
reactant | (2-(N-(tert-butyl)sulfamoyl)phenyl)boronic acid | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)B(O)O | C10H16BNO4S
product | 4′-(2-Amino-1,3-oxazol-4-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide | NC=1OC=C(N1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(C)(C)C)F | C19H20FN3O3S
